US09315491B2
5-Ethoxy-2,6-dihydroxy-pyrimidine-4-carboxylic acid
(2,5-dioxo-imidazolidin-4-ylidene)-ethoxy-acetic acid ethyl ester (16.02 g, 1 eq.) was dissolved in aq. 1 N KOH (281 ml, 4 eq.) and refluxed for 3.5 hrs. The mixture was cooled to 0° C. and carefully acidified with conc. HCl. After overnight cooling (4° C.), it led to the formation of white precipitate. The mixture was filtered and the precipitate was dried in vacuo. The product obtained was a white solid (7.76 g, 55%).

reactant | (2,5-dioxo-imidazolidin-4-ylidene)-ethoxy-acetic acid ethyl ester | 16.02 g, 1 eq. | C(C)OC(C(OCC)=C1NC(NC1=O)=O)=O | C9H12N2O5
reactant | KOH | 1 N, 281 ml, 4 eq. | [OH-].[K+]
reactant | HCl | Cl | ClH
product | 5-Ethoxy-2,6-dihydroxy-pyrimidine-4-carboxylic acid | C(C)OC=1C(=NC(=NC1O)O)C(=O)O | C7H8N2O5
